US07973164B2
N-(1-ethylpyrazol-4-yl)-2-[4-(6-carboxyquinolin-4-yloxy)-2-methoxyphenyl]acetamide
Using an analogous procedure to that described in Example 8, N-(1-ethylpyrazol-4-yl)-2-[4-(6-methoxycarbonylquinolin-4-yloxy)-2-methoxyphenyl]acetamide was reacted with lithium hydroxide to give the title compound in 82% yield; 1H NMR: (DMSOd6) 1.33 (t, 3H), 3.61 (s, 2H), 3.78 (s, 3H), 4.07 (q, 2H), 6.73 (d, 1H), 6.88 (m, 1H), 7.04 (d, 1H), 7.36 (d, 1H), 7.42 (s, 1H), 7.88 (s, 1H), 8.11 (d, 1H), 8.28 (m, 1H), 8.81 (d, 1H), 8.96 (d, 1H), 10.05 (s, 1H), 13.34 (br s, 1H); Mass Spectrum: M+H+ 447.

reactant | N-(1-ethylpyrazol-4-yl)-2-[4-(6-methoxycarbonylquinolin-4-yloxy)-2-methoxyphenyl]acetamide | C(C)N1N=CC(=C1)NC(CC1=C(C=C(C=C1)OC1=CC=NC2=CC=C(C=C12)C(=O)OC)OC)=O | C25H24N4O5
reactant | lithium hydroxide | [OH-].[Li+]
product | N-(1-ethylpyrazol-4-yl)-2-[4-(6-carboxyquinolin-4-yloxy)-2-methoxyphenyl]acetamide | 82% yield | C(C)N1N=CC(=C1)NC(CC1=C(C=C(C=C1)OC1=CC=NC2=CC=C(C=C12)C(=O)O)OC)=O | C24H22N4O5
